* ldo_simple -- AnalogGym LDO on TSMC16 BSIM-CMG (LEVEL=72)
* Topology is the shipped one.  Geometry is re-designed for a 0.8 V
* rail, and the mim caps / poly resistors become ideal C and R because
* this TSMC16 view carries transistor models only.
.subckt ldo_simple Vdd vinp vinn Vb Vss Vreg
NM1 net1 vinp net2 Vss nsvt_l120_f4 m=8
NM2 vout1 vinn net2 Vss nsvt_l120_f4 m=8
NM3 vout1 net1 Vdd Vdd psvt_l120_f4 m=8
NM4 net1 net1 Vdd Vdd psvt_l120_f6 m=8
NM5 net2 Vb Vss Vss nsvt_l240_f2 m=8
NM6 Vreg vout1 Vdd Vdd psvt_l16_f20 m=1500 $ pass device
CCfb net22 Vreg 6e-12   $ was XCfb (mim)
RRfb net22 vout1 66666.7   $ was XRfb (poly)
.ends ldo_simple
