* PTAT_65_classic1 -- AnalogGym sensing front end on TSMC12 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.8 V.
.subckt PTAT_65_classic1 GND VDD VOUT
NM1 net3 net3 GND GND nulvt_l60_f2 m=1
NM0 VOUT net3 GND GND nulvt_l60_f2 m=1
NM3 VOUT VOUT VDD VDD pulvt_l36_f20 m=1
NM4 net3 VOUT VDD VDD pulvt_l36_f20 m=1
.ends PTAT_65_classic1
